US04889851
To a solution of 2-(4-chlorophenyl)-4-methyl-6-(2-phthalimidoethoxy)-2H-1,2,4-benzothiadiazine-3(4H)-one 1,1-dioxide (0.153 g) in methanol (1.5 ml) was added hydrazine monohydrate (30 mg). After the mixture was refluxed for one hour, the reaction mixture was treated with conc. HCl and further refluxed for 30 minutes. The precipitate was removed by filtration and the filtrate was washed two times with ether. The aqueous layer was treated with aqueous 1N NaOH solution and extracted with ethyl acetate. The extract was washed with brine and dried over MgSO4. After the solvent was evaporated under reduced pressure, the residue was triturated with IPE. The colorless crystals were collected by filtration and recrystallized from ethanol to give 6-(2-aminoethoxy)-2-(4-chlorophenyl)-4-methyl-2H-1,2,4-benzothiadiazine-(3-(4H)-one 1,1-dioxide (30 mg) as colorless prisms.

reactant | 2-(4-chlorophenyl)-4-methyl-6-(2-phthalimidoethoxy)-2H-1,2,4-benzothiadiazine-3(4H)-one 1,1-dioxide | 0.153 g | ClC1=CC=C(C=C1)N1S(C2=C(N(C1=O)C)C=C(C=C2)OCCN2C(C=1C(C2=O)=CC=CC1)=O)(=O)=O | C24H18ClN3O6S
reactant | hydrazine monohydrate | 30 mg | O.NN
reactant | HCl | Cl | ClH
solvent | methanol | 1.5 ml | CO | CH4O
product | 6-(2-aminoethoxy)-2-(4-chlorophenyl)-4-methyl-2H-1,2,4-benzothiadiazine | NCCOC=1C=CC2=C(N(CN(S2)C2=CC=C(C=C2)Cl)C)C1 | C16H18ClN3OS
